### PR TITLE
Generalize lemmas to PR and drop measurability assumption

### PR DESCRIPTION
**Pull request by oliver-butterley**
I made a start of generalizing the partialSups lemmas. 

Work in progress... I hope I didn't miss something obvious but it became rather involved because it seems some relatively standard results aren't available in full generality.

### CODE REVIEW

**Review by oliver-butterley — COMMENTED** [review]
Floris helped me figure out how to write the induction argument for this very general case. Consequently this is now sensible, I removed the huge mess I had previously. 

I think these two partial sup lemmas are now all good for a pr to mathlib.

**Comment by oliver-butterley** [comment]
Now includes the generalized lemmas in birkhoffsumPR

**Comment by oliver-butterley** [comment]
Added the statement and proof of the main result without the measurability assumption on the observable. The original statement is as it was and then following that there is the corresponding statement and proof with the weaker assumptions.

File: BirkhoffErgodicThm/BirkhoffSumPR.lean [hunk 1]
```diff
@@ -8,46 +9,50 @@ lemma invariant_iter (h : φ ∘ f = φ) : ∀ i, φ ∘ f^[i] = φ
...
+-- To go in `Dynamics/BirkhoffSum/Average`
+-- Note: `[CharZero R]` required for `Nat.cast_ne_zero`.
+open Finset in
 /-- If a function `φ` is invariant under a function `f` (i.e., `φ ∘ f = φ`),
 then the Birkhoff average of `φ` over `f` for `n` iterations is equal to `φ`
 provided `0 < n`. -/
-theorem birkhoffAverage_eq_of_invariant
-    {φ : α → ℝ} (h : φ ∘ f = φ) (hn : 0 < n) : birkhoffAverage ℝ f φ n = φ := by
+theorem birkhoffAverage_of_invariant {M : Type*} [AddCommMonoid M] [Module R M] [CharZero R]
+    {f : α → α} {φ : α → M} (h : φ ∘ f = φ) {n : ℕ} (hn : 0 < n) : birkhoffAverage R f φ n = φ := by
```
Comment (lua-vr) [inline BirkhoffErgodicThm/BirkhoffSumPR.lean:32]: indeed, this is false without `CharZero`

```lean
#eval birkhoffAverage (ZMod 2) id id 2 (1 : ZMod 2) -- 0
```

File: BirkhoffErgodicThm/QuasiMeasurePreservingPR.lean
Comment (lua-vr) [inline BirkhoffErgodicThm/QuasiMeasurePreservingPR.lean:1]: Will this go in `QuasiMeasurePreserving` itself or in the folder of `Mathlib.Dynamics.BirkhoffSum`?

File: BirkhoffErgodicThm/PartialSupsPR.lean [hunk 2]
```diff
@@ -1,27 +1,38 @@
...
+    (partialSups f) (Order.succ i) = f ⊥ ⊔ (partialSups (f ∘ Order.succ)) i := by
+  refine Succ.rec (by simp) (fun j _ h ↦ ?_) (bot_le (a := i))
+  have : (partialSups (f ∘ Order.succ)) (Order.succ j) =
+      ((partialSups (f ∘ Order.succ)) j ⊔ (f ∘ Order.succ) (Order.succ j)) := by simp
+  simp [this, h, sup_assoc]
+
+-- To be added to `Mathlib/Algebra/Order/PartialSups`
+lemma partialSups_add_one' [SemilatticeSup α] (f : ℕ → α) (n : ℕ) :
+    partialSups f (n + 1) = f 0 ⊔ partialSups (f ∘ (fun k ↦ k + 1)) n := by
+  exact Order.succ_eq_add_one n ▸ partialSups_succ' f n
```
Comment (lua-vr) [inline BirkhoffErgodicThm/PartialSupsPR.lean:38]: I don't think this is necessary at all, it defeqs to the previous statement:
```lean
lemma partialSups_add_one' [SemilatticeSup α] (f : ℕ → α) (n : ℕ) :
    partialSups f (n + 1) = f 0 ⊔ partialSups (f ∘ (fun k ↦ k + 1)) n := partialSups_succ' _ _
```

File: BirkhoffErgodicThm.lean [hunk 3]
```diff
@@ -366,3 +366,21 @@ theorem birkhoffErgodicTheorem  (hf : MeasurePreserving f μ μ) (hφ : Integrab
...
+  have hφ : Integrable φ μ := (integrable_congr hΦ.left.ae_eq_mk).mp hΦ
+  -- Obtain a full measure set such that the three relevant results hold.
+  obtain ⟨s, hs, hs'⟩ : ∃ s ∈ ae μ, Set.EqOn (invCondexp μ f Φ) (invCondexp μ f φ) s :=
+    eventuallyEq_iff_exists_mem.mp <| condExp_congr_ae hΦ'
+  obtain ⟨t, ht, ht'⟩ := eventually_iff_exists_mem.mp <| birkhoffErgodicTheorem μ hf hφ hφ'
+  have := ae_all_iff.mpr <| birkhoffAverage_ae_eq_of_ae_eq ℝ hf.quasiMeasurePreserving hΦ'
+  obtain ⟨u, hu, hu'⟩ := eventually_iff_exists_mem.mp this
+  -- Apply the three results on the chosen set.
+  refine eventually_iff_exists_mem.mpr ⟨s ∩ t ∩ u, inter_mem (inter_mem hs ht) hu, fun y hy ↦ ?_⟩
+  simp [hs' hy.1.1, ht' y hy.1.2, hu' y hy.2]
```
Comment (lua-vr) [inline BirkhoffErgodicThm.lean:386]: Perhaps we should rename the previous statement `_aux` or prime and have this one be called `birkhoffErgodicTheorem`?

**Review by lua-vr — CHANGES_REQUESTED** [review]

File: BirkhoffErgodicThm/QuasiMeasurePreservingPR.lean
Comment (oliver-butterley) [reply BirkhoffErgodicThm/QuasiMeasurePreservingPR.lean:1]: The lemmas here are precisely the ones I created in the recent PR to Mathlib. They are in the queue. 

I positioned the file in the birkhoffSum folder. 

https://github.com/leanprover-community/mathlib4/issues/26074

File: BirkhoffErgodicThm/PartialSupsPR.lean (hunk 2 above)
Comment (oliver-butterley) [reply BirkhoffErgodicThm/PartialSupsPR.lean:38]: This isn't clear to me. As you rightly say, the result is immediate. However the file I mentioned there includes a similar statement with an immediate proof.  I think sometimes the explicit statement of such results can be useful. I just imitated what I saw already there.

File: BirkhoffErgodicThm.lean (hunk 3 above)
Comment (oliver-butterley) [reply BirkhoffErgodicThm.lean:386]: Yes, the naming needs to be updated. And the previous result can be made private since the main result is strictly stronger. 

I would be inclined to choose the name in the descriptive style of mathlib rather than use birkhoff in the theorem name.

File: BirkhoffErgodicThm/BirkhoffSumPR.lean (hunk 1 above)
Comment (oliver-butterley) [reply BirkhoffErgodicThm/BirkhoffSumPR.lean:32]: Nice example
